* File: DFF.pex.spi.pex
* Created: Fri Nov 28 15:23:41 2025
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF_C 10 14 19
c0 19 0 0.138655f
c1 17 0 0.0736823f
c2 14 0 0.088108f
c3 10 0 0.178779f
c4 7 0 0.304494f
c5 6 0 0.131713f
c6 3 0 0.0724221f
r7 14 17 23.75
r8 10 16 59.75
r9 7 19 2.66667
r10 6 7 4.4184
r11 4 17 10.0369
r12 4 6 5.49265
r13 3 16 10.0369
r14 3 6 5.49265
.ends

.subckt PM_DFF_NET88 17 22 34 38 42 46 55 59
c0 70 0 0.0530505f
c1 66 0 0.107069f
c2 64 0 0.028939f
c3 63 0 0.0289425f
c4 62 0 0.0736657f
c5 59 0 0.113395f
c6 55 0 0.255198f
c7 52 0 0.418843f
c8 48 0 0.0635356f
c9 46 0 0.114891f
c10 42 0 0.25449f
c11 38 0 0.139861f
c12 34 0 0.129697f
c13 31 0 0.301413f
c14 30 0 0.132369f
c15 27 0 0.0716857f
c16 25 0 0.28907f
c17 20 0 0.478765f
c18 16 0 0.0794134f
c19 8 0 0.0996513f
c20 5 0 0.0178682f
c21 3 0 0.339536f
r22 57 64 7.73958
r23 57 59 36
r24 53 64 7.73958
r25 53 55 87.75
r26 51 52 13.2552
r27 49 63 1.29764
r28 49 51 5.18936
r29 48 64 1.29764
r30 48 51 4.5766
r31 44 63 7.73958
r32 44 46 36
r33 40 63 7.73958
r34 40 42 87.75
r35 38 62 47.25
r36 34 61 40.75
r37 31 66 2.66667
r38 30 31 4.4184
r39 28 62 10.0369
r40 28 30 5.47941
r41 27 61 10.0369
r42 27 30 5.50588
r43 24 25 16.3327
r44 22 24 4.90213
r45 20 70 8
r46 19 20 8.16635
r47 17 19 1.63404
r48 15 52 0.287596
r49 15 16 0.00725953
r50 14 25 0.145326
r51 14 16 0.0301753
r52 13 20 0.195543
r53 13 16 0.0301753
r54 9 70 0.105272
r55 8 9 0.00160363
r56 6 8 0.105814
r57 4 66 0.0717766
r58 4 5 0.0325
r59 3 6 0.00160363
r60 3 5 0.480435
.ends

.subckt PM_DFF_D 5 9 17
c0 17 0 0.117542f
c1 13 0 0.123576f
c2 12 0 0.0887946f
c3 9 0 0.226861f
c4 5 0 0.191538f
r5 13 17 8
r6 12 15 8.39118
r7 12 14 8.39118
r8 12 13 13.2552
r9 9 15 71.5
r10 5 14 50.75
.ends

.subckt PM_DFF_NET8 7 8 12 19 23 32 36
c0 50 0 0.425493f
c1 48 0 0.195742f
c2 46 0 0.449229f
c3 40 0 0.225208f
c4 39 0 0.0494408f
c5 38 0 0.0295675f
c6 36 0 0.276342f
c7 32 0 0.119412f
c8 29 0 0.409819f
c9 25 0 0.148366f
c10 23 0 0.270594f
c11 19 0 0.11876f
c12 15 0 0.180225f
c13 11 0 0.402248f
r14 53 55 0.0398154
r15 53 54 4
r16 50 53 0.0555244
r17 48 55 0.167356
r18 46 48 0.0937376
r19 40 50 0.00954224
r20 40 42 0.0797979
r21 34 39 7.73958
r22 34 36 91.25
r23 30 39 7.73958
r24 30 32 37
r25 29 54 0.166809
r26 28 29 4.4184
r27 26 38 1.29764
r28 26 28 10.2638
r29 25 39 1.29764
r30 25 28 14.2468
r31 21 38 7.73958
r32 21 23 91.25
r33 17 38 7.73958
r34 17 19 37
r35 15 42 8
r36 14 15 16.3327
r37 12 14 2.43191
r38 11 46 8
r39 10 11 8.16635
r40 8 10 1.63404
r41 7 10 1.62128
.ends

.subckt PM_DFF_NET92 9 10 14 21 25 34 38
c0 54 0 0.423201f
c1 48 0 0.168303f
c2 43 0 0.0894032f
c3 41 0 0.048251f
c4 40 0 0.0349754f
c5 38 0 0.207479f
c6 34 0 0.179131f
c7 31 0 0.460648f
c8 27 0 0.147512f
c9 25 0 0.201546f
c10 21 0 0.177258f
c11 17 0 0.189819f
c12 13 0 0.353744f
c13 3 0 0.0764411f
c14 2 0 0.131786f
r15 51 54 0.0314397
r16 48 49 8
r17 46 54 0.0414272
r18 46 48 0.0836782
r19 36 41 7.73958
r20 36 38 71.5
r21 32 41 7.73958
r22 32 34 52.25
r23 31 49 0.244255
r24 30 31 4.4184
r25 28 40 1.29764
r26 28 30 10.2638
r27 27 41 1.29764
r28 27 30 14.2468
r29 23 40 7.73958
r30 23 25 71.5
r31 19 40 7.73958
r32 19 21 52.25
r33 17 43 8
r34 16 17 16.3327
r35 14 16 2.43191
r36 13 51 8
r37 12 13 8.16635
r38 10 12 1.63404
r39 9 12 1.62128
r40 5 48 0.0777012
r41 4 43 0.130707
r42 3 4 0.0363228
r43 2 5 0.0363881
r44 2 3 0.128617
.ends

.subckt PM_DFF_Q 5 6 10 17 21 35
c0 44 0 0.149f
c1 35 0 0.290295f
c2 30 0 0.183311f
c3 25 0 0.29985f
c4 24 0 0.108045f
c5 21 0 0.335523f
c6 17 0 0.152799f
c7 13 0 0.194298f
c8 9 0 0.356924f
r9 44 45 8
r10 42 44 0.00290426
r11 40 42 0.096117
r12 35 37 0.221722
r13 33 42 0.00522268
r14 33 35 0.109778
r15 28 40 0.00451432
r16 28 30 0.0712174
r17 25 45 0.149681
r18 24 27 8.37318
r19 24 26 8.40918
r20 24 25 13.2552
r21 21 27 91.25
r22 17 26 35.5
r23 13 30 8
r24 12 13 16.3327
r25 10 12 2.43191
r26 9 37 8
r27 8 9 8.16635
r28 6 8 1.63404
r29 5 8 1.62128
.ends

.subckt PM_DFF_NET59 11 12 16 23 27 31 35
c0 65 0 0.149472f
c1 57 0 0.153149f
c2 54 0 0.177841f
c3 49 0 0.334514f
c4 44 0 0.33003f
c5 43 0 0.109676f
c6 39 0 0.111235f
c7 38 0 0.0881566f
c8 35 0 0.25853f
c9 31 0 0.21743f
c10 27 0 0.293663f
c11 23 0 0.13999f
c12 19 0 0.16659f
c13 15 0 0.340252f
c14 5 0 0.0682196f
c15 4 0 0.729582f
c16 3 0 0.54445f
r17 65 66 8
r18 63 65 0.00290426
r19 61 63 0.096117
r20 57 60 0.0279476
r21 52 63 0.00522268
r22 52 54 0.0830556
r23 47 61 0.00451432
r24 47 49 0.235272
r25 44 66 0.149681
r26 43 46 8.39118
r27 43 45 8.39118
r28 43 44 13.2552
r29 39 57 8
r30 38 41 8.37318
r31 38 40 8.40918
r32 38 39 13.2552
r33 35 46 71.5
r34 31 45 50.75
r35 27 41 89.75
r36 23 40 37
r37 19 49 8
r38 18 19 16.3327
r39 16 18 2.43191
r40 15 54 8
r41 14 15 8.16635
r42 12 14 1.63404
r43 11 14 1.62128
r44 6 54 0.208722
r45 4 6 0.0363309
r46 4 5 0.565575
r47 3 5 0.0366534
r48 3 60 0.447427
.ends

.subckt PM_DFF_QB 6 7 11 18 22 35
c0 37 0 0.245828f
c1 29 0 0.256401f
c2 25 0 0.110238f
c3 22 0 0.212334f
c4 18 0 0.277972f
c5 14 0 0.13157f
c6 10 0 0.405446f
c7 4 0 0.246049f
r8 35 37 0.0390691
r9 32 35 0.0252394
r10 29 30 8
r11 27 32 0.0242614
r12 27 29 0.183194
r13 26 30 0.115938
r14 25 26 13.2552
r15 20 25 8.37318
r16 20 22 46.75
r17 16 25 8.40918
r18 16 18 80
r19 14 37 8
r20 13 14 16.3327
r21 11 13 2.44149
r22 9 10 8.16635
r23 7 9 1.62766
r24 6 9 1.62766
r25 5 10 0.220111
r26 4 30 0.00204167
r27 4 5 0.039164
.ends

.subckt PM_DFF_NET18 8 9 13 20 24
c0 35 0 0.155782f
c1 31 0 0.232271f
c2 27 0 0.110419f
c3 24 0 0.152199f
c4 20 0 0.327843f
c5 16 0 0.133644f
c6 15 0 4.24043e-19
c7 12 0 0.350887f
c8 6 0 0.387455f
r9 35 37 0.0278119
r10 31 37 0.171122
r11 31 32 8
r12 28 32 0.115938
r13 27 28 13.2552
r14 22 27 8.39118
r15 22 24 35
r16 18 27 8.39118
r17 18 20 87.25
r18 15 16 16.3327
r19 13 15 2.44149
r20 12 35 8
r21 11 12 8.16635
r22 9 11 1.62766
r23 8 11 1.62766
r24 7 16 0.143804
r25 6 32 0.102667
r26 6 7 0.0391341
.ends

.subckt PM_DFF_NET70 15 16 20 27 31
c0 46 0 0.380632f
c1 42 0 0.448757f
c2 39 0 0.261616f
c3 35 0 0.118521f
c4 34 0 0.0942987f
c5 31 0 0.269324f
c6 27 0 0.135175f
c7 23 0 0.209788f
c8 19 0 0.368337f
c9 7 0 0.1649f
c10 3 0 0.095583f
c11 2 0 0.591531f
r12 35 46 8
r13 34 37 8.37318
r14 34 36 8.40918
r15 34 35 13.2552
r16 31 37 90
r17 27 36 36.75
r18 23 42 8
r19 22 23 16.3327
r20 20 22 2.45106
r21 19 39 8
r22 18 19 8.16635
r23 16 18 1.63404
r24 15 18 1.62128
r25 11 46 0.401143
r26 10 39 0.0754598
r27 8 42 0.202157
r28 7 8 0.00315106
r29 5 39 0.216667
r30 5 7 0.103851
r31 3 10 0.0365799
r32 2 11 0.0363281
r33 2 3 0.481386
.ends

.subckt PM_DFF_NET55 15 16 20 27 31
c0 45 0 0.271246f
c1 42 0 0.303864f
c2 35 0 0.159762f
c3 34 0 0.0963509f
c4 31 0 0.211871f
c5 27 0 0.175821f
c6 23 0 0.164262f
c7 19 0 0.392098f
c8 7 0 0.19786f
c9 5 0 0.301491f
c10 3 0 0.0170264f
c11 2 0 0.204612f
r12 35 45 8
r13 34 37 8.39118
r14 34 36 8.39118
r15 34 35 13.2552
r16 31 37 71.5
r17 27 36 50.75
r18 23 42 8
r19 22 23 16.3327
r20 20 22 2.45106
r21 19 39 8
r22 18 19 8.16635
r23 16 18 1.63404
r24 15 18 1.62128
r25 11 45 0.322347
r26 10 42 0.0727717
r27 8 42 0.235272
r28 7 8 0.00451432
r29 5 39 0.0859195
r30 4 7 0.0950106
r31 4 5 0.00637743
r32 3 10 0.0400863
r33 2 11 0.0409464
r34 2 3 0.76
.ends

.subckt PM_DFF_NET76 6 11 18 22 31 35
c0 38 0 0.028939f
c1 37 0 0.0289425f
c2 35 0 0.162221f
c3 31 0 0.222707f
c4 28 0 0.411684f
c5 24 0 0.0647761f
c6 22 0 0.168433f
c7 18 0 0.224172f
c8 14 0 0.450304f
c9 9 0 0.387186f
c10 5 0 0.0794134f
r11 33 38 7.73958
r12 33 35 47.25
r13 29 38 7.73958
r14 29 31 81
r15 27 28 13.2552
r16 25 37 1.29764
r17 25 27 5.18936
r18 24 38 1.29764
r19 24 27 4.5766
r20 20 37 7.73958
r21 20 22 47.25
r22 16 37 7.73958
r23 16 18 81
r24 13 14 16.3327
r25 11 13 4.90213
r26 8 9 8.16635
r27 6 8 1.63404
r28 4 28 0.287596
r29 4 5 0.00725953
r30 3 9 0.215326
r31 3 5 0.0301753
r32 2 14 0.28213
r33 2 5 0.0301753
.ends

.subckt PM_DFF_GND 5 34 47 52 57 58 62 63 67 68 72 73
c0 76 0 0.193476f
c1 71 0 0.198364f
c2 67 0 0.00140002f
c3 66 0 0.184055f
c4 61 0 0.190618f
c5 57 0 0.00326383f
c6 55 0 0.144726f
c7 50 0 0.115227f
c8 33 0 0.177623f
c9 32 0 0.277126f
c10 30 0 0.177881f
c11 29 0 0.278207f
c12 27 0 0.0158546f
c13 24 0 0.0158546f
c14 9 0 0.0907365f
c15 8 0 0.220854f
c16 7 0 0.09069f
c17 6 0 0.220382f
c18 5 0 1.25303f
r19 75 76 16.3327
r20 73 75 2.45106
r21 72 75 2.43191
r22 70 71 16.3327
r23 68 70 2.45106
r24 67 70 2.43191
r25 65 66 16.3327
r26 63 65 2.45106
r27 62 65 2.43191
r28 60 61 16.3327
r29 58 60 2.45106
r30 57 60 2.43191
r31 54 55 16.3327
r32 52 54 4.86383
r33 49 50 16.3327
r34 47 49 4.86383
r35 34 43 0.960747
r36 34 37 0.960747
r37 32 43 0.343149
r38 32 33 0.0285833
r39 31 76 0.0987778
r40 31 33 0.00860432
r41 29 37 0.343149
r42 29 30 0.0285833
r43 28 71 0.172044
r44 28 30 0.00860432
r45 26 43 0.115574
r46 26 27 0.0285833
r47 25 66 0.0987778
r48 25 27 0.00860432
r49 23 37 0.115574
r50 23 24 0.0285833
r51 22 61 0.172044
r52 22 24 0.00860432
r53 21 55 0.0966304
r54 20 21 0.00486158
r55 18 20 0.134787
r56 17 50 0.0967826
r57 16 17 0.00486158
r58 14 16 0.134787
r59 9 20 0.0342553
r60 8 27 0.0285833
r61 8 9 0.355957
r62 7 16 0.0342553
r63 6 24 0.0285833
r64 6 7 0.355957
r65 3 18 0.00411102
r66 3 5 0.557766
r67 2 14 0.00411102
r68 2 5 1.06266
.ends

.subckt PM_DFF_VDD 7 8 13 18 23 28 29 33 34 38 43 48 53 58 59 63 64 68 73 105
c0 105 0 0.839001f
c1 76 0 0.303455f
c2 71 0 0.260801f
c3 70 0 6.36065e-19
c4 67 0 0.419238f
c5 63 0 0.00101759f
c6 62 0 0.433198f
c7 56 0 0.274697f
c8 51 0 0.245572f
c9 46 0 0.273394f
c10 41 0 0.248004f
c11 37 0 0.43239f
c12 33 0 0.0012639f
c13 32 0 0.445679f
c14 28 0 0.00155949f
c15 26 0 0.395458f
c16 21 0 0.403303f
c17 16 0 0.3697f
c18 13 0 0.00214593f
c19 11 0 0.380128f
c20 8 0 0.0175398f
c21 6 0 0.189089f
c22 2 0 0.145983f
r23 101 105 0.0375789
r24 101 103 0.0286456
r25 101 102 0.0286456
r26 98 101 0.102053
r27 98 100 0.0294002
r28 98 99 0.0294002
r29 95 98 0.102053
r30 95 97 0.0286456
r31 95 96 0.0286456
r32 92 95 0.056
r33 92 94 0.0286456
r34 92 93 0.0286456
r35 88 90 0.0294002
r36 88 89 0.0294002
r37 85 88 0.102053
r38 85 87 0.0286456
r39 85 86 0.0286456
r40 80 92 0.0282947
r41 80 88 0.0737579
r42 79 80 0.480374
r43 76 103 0.239674
r44 75 76 8.16635
r45 73 75 1.62766
r46 71 102 0.0966304
r47 70 71 8.16635
r48 68 70 1.62766
r49 67 100 0.245
r50 66 67 8.16635
r51 64 66 1.63404
r52 63 66 1.62128
r53 62 99 0.0987778
r54 61 62 8.16635
r55 59 61 1.63404
r56 58 61 1.62128
r57 56 97 0.239674
r58 55 56 8.16635
r59 53 55 1.62128
r60 51 96 0.0966304
r61 50 51 8.16635
r62 48 50 1.62128
r63 46 94 0.239674
r64 45 46 8.16635
r65 43 45 1.63404
r66 41 93 0.0966304
r67 40 41 8.16635
r68 38 40 1.63404
r69 37 90 0.245
r70 36 37 8.16635
r71 34 36 1.63404
r72 33 36 1.62128
r73 32 89 0.0987778
r74 31 32 8.16635
r75 29 31 1.63404
r76 28 31 1.62128
r77 26 87 0.239674
r78 25 26 8.16635
r79 23 25 1.62128
r80 21 86 0.0966304
r81 20 21 8.16635
r82 18 20 1.62128
r83 15 16 8.16635
r84 13 15 1.62128
r85 10 11 8.16635
r86 8 10 1.62128
r87 7 79 0.331579
r88 5 16 0.239674
r89 5 6 0.0515741
r90 4 11 0.0966304
r91 4 6 0.0515741
r92 3 6 0.00622498
r93 2 85 0.0169474
r94 2 3 0.0736842
.ends

.subckt PM_DFF_NET34 1 2
c0 1 0 0.0334493f
r1 1 2 4.88298
.ends

.subckt PM_DFF_NET36 1 2
r0 1 2 4.88298
.ends

.subckt PM_DFF_NET30 1 2
c0 1 0 0.0287789f
r1 1 2 4.88298
.ends

.subckt PM_DFF_NET32 1 2
r0 1 2 4.88298
.ends

.subckt PM_DFF_NET33 1 2
r0 1 2 4.88298
.ends

.subckt PM_DFF_NET35 1 2
r0 1 2 4.88298
.ends

.subckt PM_DFF_NET29 1 2
c0 1 0 0.0319334f
r1 1 2 4.88298
.ends

.subckt PM_DFF_NET31 1 2
r0 1 2 4.88298
.ends

